US07101891B2
[3-(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-piperidin-1-yl]-acetic acid ethyl ester
To a suspension of 9-chloro-3-methyl-5-piperidin-3-yl-5H-isoxazolo[4,3-c]quinolin-4-one hydroiodide (446 mg, 1.0 mmol) in tetrahydrofuran (20 mL) add ethylbromoacetate (0.11 mL, 1.0 mmol) and follow by potassium carbonate (346 mg, 2.5 mmol). Stir the mixture at room temperature under nitrogen overnight. Concentrate the mixture, partition between water and 20% isopropanol/chloroform, and separate. Wash the organic layer with saturated aqueous sodium bicarbonate solution, brine, dry over magnesium sulfate and concentrate. Purify by flash chromatography on silica gel (eluting with 0–1% methanol/chloroform) to give 261 mg of the title compound as a clear oil, 65% yield. 1H NMR: consistent with structure. MS (ion spray) 404 (M+).

reactant | 9-chloro-3-methyl-5-piperidin-3-yl-5H-isoxazolo[4,3-c]quinolin-4-one hydroiodide | 1.0 mmol, 446 mg | I.ClC=1C=2C=3C(C(N(C2C=CC1)C1CNCCC1)=O)=C(ON3)C
reactant | ethylbromoacetate | 1.0 mmol, 0.11 mL | C(C)OC(CBr)=O | C4H7BrO2
reactant | potassium carbonate | 2.5 mmol, 346 mg | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | [3-(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-piperidin-1-yl]-acetic acid ethyl ester | 261 mg, 65% yield | C(C)OC(CN1CC(CCC1)N1C(C=2C(C=3C(=CC=CC13)Cl)=NOC2C)=O)=O | C20H22ClN3O4
